US06953790B2
N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(1,3-thiazol-2-ylmethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.156 mL, 0.1.12 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(1,3-thiazol-2-ylmethyl)azepan-2-one (302 mg, 0.895 mmol) and 4-nitrophenyl chloroformate (217 mg, 1.074 mmol) in tetrahydrofuran (15 mL) at 0° C. After 30 min, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (782 mg, 2.685 mmol), triethylamine (5.37 mmol) and dichloromethane (15 mL) were added and the mixture allowed to warm to ambient temperature. The reaction was stirred overnight, concentrated, diluted with saturated aqueous sodium bicarbonate and extracted with dichloromethane (2×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (0%→8% methanol/dichloromethane) gave the title compound (400 mg). MS 582.2109 (M+1). 1H NMR (500 MHz, CDCl3) δ 8.06 (d, J=4.5 Hz, 1H), 7.73 (d, J=3.4 Hz, 1H), 7.35 (m, 2H), 7.0 (m, 2H), 6.98 (dd, J=5.4, 7.8 Hz, 1H), 6.85 (m, 1H), 6.21 (d, J=5.3 Hz, 1H), 5.0 (app q, J=15 Hz, 2H), 4.85 (dd, J=5.0, 11.1 Hz, 1H), 4.58 (m, 1H), 4.27 (br dd, 2H), 4.00 (dd, J=10.6, 15.1 Hz, 1H), 3.50 (d, J=15.1 Hz, 1H), 3.0 (br dd, 1h), 2.88 (dd, J=10.0, 10.0 Hz, 1H), 2.2-1.6 (m, 8H).

reactant | Triethylamine | 0.156 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-(1,3-thiazol-2-ylmethyl)azepan-2-one | 0.895 mmol, 302 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CC=1SC=CN1)=O | C16H17F2N3OS
reactant | 4-nitrophenyl chloroformate | 1.074 mmol, 217 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 2.685 mmol, 782 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 5.37 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-(1,3-thiazol-2-ylmethyl)azepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 400 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CC=1SC=CN1)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C28H29F2N7O3S
